### PR TITLE
[Merged by Bors] - feat: Miscellaneous lemmas on quotienting by a polynomial

### PR DESCRIPTION
**Pull request by BoltonBailey**
Adds `modByMonic_eq_zero_iff_quotient_eq_zero` and `mk_singleton_eq`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Quotient.lean [hunk 1]
```diff
@@ -70,6 +70,14 @@ noncomputable def quotientSpanCXSubCXSubCAlgEquiv {x : R} {y : R[X]} :
       (Ideal.Quotient.algebra R) _ :=
 ((quotientSpanCXSubCAlgEquiv (X - C x) y).restrictScalars R).trans <| quotientSpanXSubCAlgEquiv x
 
+lemma modByMonic_eq_zero_iff_quotient_eq_zero (p q : R[X]) (hq : q.Monic) :
+    p %ₘ q = 0 ↔ (p : R[X] ⧸ Ideal.span {q}) = 0 := by
+  rw [dvd_iff_modByMonic_eq_zero hq, Ideal.Quotient.eq_zero_iff_dvd]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Polynomial/Quotient.lean:75]: `dvd_iff_modByMonic_eq_zero` is deprecated
```suggestion
  rw [modByMonic_eq_zero_iff_dvd hq, Ideal.Quotient.eq_zero_iff_dvd]
```

Comment (YaelDillies) [inline Mathlib/RingTheory/Polynomial/Quotient.lean:75]: Is this lemma really worth having? It's a straightforward combination of simpler lemmas

File: Mathlib/RingTheory/Polynomial/Quotient.lean [hunk 2]
```diff
@@ -70,6 +70,14 @@ noncomputable def quotientSpanCXSubCXSubCAlgEquiv {x : R} {y : R[X]} :
...
+
+@[simp]
+lemma quotient_singleton_eq (p : R[X]) : Ideal.Quotient.mk (Ideal.span {p}) p = 0 := by
+  rw [Ideal.Quotient.eq_zero_iff_dvd]
```
Comment (YaelDillies) [inline Mathlib/RingTheory/Polynomial/Quotient.lean:79]: This lemma has nothing to do with polynomials

**Review by YaelDillies — CHANGES_REQUESTED** [review]

File: Mathlib/RingTheory/Polynomial/Quotient.lean (hunk 2 above)
Comment (BoltonBailey) [reply Mathlib/RingTheory/Polynomial/Quotient.lean]: Thanks, moved this to right after the lemma it uses

File: Mathlib/RingTheory/Polynomial/Quotient.lean (hunk 1 above)
Comment (BoltonBailey) [reply Mathlib/RingTheory/Polynomial/Quotient.lean]: It was not immediately obvious to me how to prove it, I didn't know whether it would go through `dvd` or `mod` or what. I figure it won't be hard to maintain and it might solve someone's docs search a bit faster at some point.

File: Mathlib/RingTheory/Ideal/Quotient.lean [hunk 3]
```diff
@@ -131,6 +131,10 @@ theorem eq_zero_iff_mem {I : Ideal R} : mk I a = 0 ↔ a ∈ I :=
 theorem eq_zero_iff_dvd (x y : R) : Ideal.Quotient.mk (Ideal.span ({x} : Set R)) y = 0 ↔ x ∣ y := by
   rw [Ideal.Quotient.eq_zero_iff_mem, Ideal.mem_span_singleton]
 
+@[simp]
+lemma quotient_singleton_eq (x : R) : mk (Ideal.span {x}) x = 0 := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Ideal/Quotient.lean:135]: Should this be `mk_singleton_self` or something else without `quotient`?

**Review by YaelDillies — APPROVED** [review]
maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
